US05990210
Preparation of 2-Carboxy-5-Maleimidophenyl Acetate
A 3-liter, three-neck round-bottom flask was charged with 76.5 g (0.5 mole) of 4-aminosalicylic acid in 400 ml of reagent acetone. The flask was flushed with nitrogen and sealed under a nitrogen balloon as stirring was started. A solution of 50 g (0.51) of maleic anhydride dissolved in 400 ml of reagent acetone was added to maintain the temperature at reflux (about 57° C.) with added heat for 1 hour, which gave a very thick pale green precipitate. The flask was then charged with 153 g of acetic anhydride and 9 g of sodium acetate and reflux was continued for an additional 11/2 to 2 hours. The acetone was stripped from the reaction mixture and 1-liter of distilled water added to wash the solid. The solid was suction-filtered and dried at 100° C. under 29 inches of Hg vacuum. The yield of brown solid was near quantitative and melted at 110-119° C. The 400 MHz proton NMR analysis showed maleimide and O-acetyl formation.

reactant | 4-aminosalicylic acid | 0.5 mole, 76.5 g | NC=1C=C(C(C(=O)O)=CC1)O | C7H7NO3
reactant | acetone | CC(=O)C | C3H6O
reactant | acetic anhydride | 153 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 9 g | C(C)(=O)[O-].[Na+]
solvent | water | 1-liter | O | H2O
product | 2-Carboxy-5-Maleimidophenyl Acetate | C(C)(=O)OC1=C(C=CC(=C1)N1C(C=CC1=O)=O)C(=O)O | C13H9NO6
